US03998958
1 -(1 -Methyl-2 -pyrrolidylidene)-3 -phenylurea.
After dissolving 4.9 g. (0.05 mole) of 2 -imino-1 -methylpyrrolidine in anhydrous benzene, 5.96 g. (0.05 mole) of phenylisocyanate is added dropwise with stirring (heat evolves). The reaction mixture is stirred for one-half hour. The solid product which is formed, 1 -(1 -methyl-2 -pyrrolidylidene)-3 -phenylurea, is collected (m.p. = 140-144° C.); recrystallized from methanol to give the pure product, m.p. = 146-147.5° C.

reactant | 2 -imino-1 -methylpyrrolidine | 0.05 mole | N=C1N(CCC1)C | C5H10N2
reactant | phenylisocyanate | 0.05 mole | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1 -(1 -Methyl-2 -pyrrolidylidene)-3 -phenylurea | CN1C(CCC1)=NC(=O)NC1=CC=CC=C1 | C12H15N3O
